US09145438B2
Step 2: ((3aR,4R,6R,6aR)-6-(4-((2,4-dimethoxybenzyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methanol
A solution of (2R,3R,4S,5R)-2-(4-((2,4-dimethoxybenzyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-5-(hydroxymethyl)tetrahydrofuran-3,4-diol (3.30 g, 7.45 mmol) in acetone (76.5 mL) and 2,2-dimethoxypropane (16.5 mL, 134 mmol) was treated with 10-camphorsulfonic acid (1.73 g, 7.44 mmol) in one portion and the reaction was allowed to stir at room temperature. After 1 h, all SM was consumed by HPLC. The reaction was quenched by the addition of sodium bicarbonate (1.88 g, 22.3 mmol) and the reaction mixture was stirred for 30 minutes during which time a precipitate formed. The reaction mixture was partitioned between 200 mL CHCl3 and 75 mL H2O. The mixture was diluted with 15 mL brine, extracted and the phases separated. The aqueous phase was washed twice with 50 mL portions of CHCl3 and the combined organic phase was dried over Na2SO4. The solution was filtered and concentrated to yield a foam. The crude product was taken up in methanol (130 mL, 3200 mmol) and treated with p-toluenesulfonic acid monohydrate (1.27 g, 6.70 mmol) in one portion. The mixture was stirred at room temperature for 2 h upon which time the reaction mixture was quenched with sodium bicarbonate (1.88 g, 22.3 mmol) and the mixture was stirred for 30 minutes. The solvent was removed in vacuo and the residue partitioned between 50 mL H2O and 150 mL CH2Cl2 and extracted. The organic phase was washed with 50 mL sat NaHCO3, dried over Na2SO4, filtered and concentrated to yield a foam. The product was isolated by flash chromatography (120 g silica gel, 60-80% EA/hept) to yield the title compound (2.83 g, 83%) as a light yellow stiff foam: MS (ESI+) for C23H28N4O6 m/z 457.4 (M+H)+; (ESI−) for C23H28N4O6 m/z 455.2 (M−H)−; HPLC purity 99% (ret. time, 3.08 min).

reactant | (2R,3R,4S,5R)-2-(4-((2,4-dimethoxybenzyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-5-(hydroxymethyl)tetrahydrofuran-3,4-diol | 7.45 mmol, 3.30 g | COC1=C(CNC=2C3=C(N=CN2)N(C=C3)[C@@H]3O[C@@H]([C@H]([C@H]3O)O)CO)C=CC(=C1)OC | C20H24N4O6
reactant | 2,2-dimethoxypropane | 134 mmol, 16.5 mL | COC(C)(C)OC | C5H12O2
reactant | 10-camphorsulfonic acid | 7.44 mmol, 1.73 g | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
reactant | sodium bicarbonate | 22.3 mmol, 1.88 g | C([O-])(O)=O.[Na+]
reactant | methanol | 3200 mmol, 130 mL | CO | CH4O
reactant | p-toluenesulfonic acid monohydrate | 6.70 mmol, 1.27 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium bicarbonate | 22.3 mmol, 1.88 g | C([O-])(O)=O.[Na+]
solvent | acetone | 76.5 mL | CC(=O)C | C3H6O
solvent | EA | CC(OCC)=O | C4H8O2
product | ((3aR,4R,6R,6aR)-6-(4-((2,4-dimethoxybenzyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methanol | 2.83 g, 83% | COC1=C(CNC=2C3=C(N=CN2)N(C=C3)[C@@H]3O[C@@H]([C@@H]2[C@H]3OC(O2)(C)C)CO)C=CC(=C1)OC | C23H28N4O6
